US04987235
Preparation of 5,6-dimethoxyisoindoline
1.20 g (4.46 mmol) of 2-benzyl-5,6-dimethoxyisoindoline was dissolved in 40 ml of methanol at 40° C., and 84 mg of 10% palladium carbon was added thereto. Under a hydrogen stream, catalytic reduction was conducted at the same temperature for 4 hours. The solvent was distilled off under reduced pressure, and a small amount of ethyl acetate and diethylether was added to the residue and stirred. The precipitates were collected to obtain 617 mg (yield: 77.3%) of the above identified compound.

reactant | 2-benzyl-5,6-dimethoxyisoindoline | 4.46 mmol, 1.20 g | C(C1=CC=CC=C1)N1CC2=CC(=C(C=C2C1)OC)OC | C17H19NO2
solvent | methanol | 40 ml | CO | CH4O
catalyst | palladium carbon | 84 mg | [C].[Pd]
product | 5,6-dimethoxyisoindoline | yield: 77.3% | COC=1C=C2CNCC2=CC1OC | C10H13NO2
